Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ y/o M w/ a history of metastatic small cell lung cancer with 
mets to brain, liver, and bone, who has had ___ 
and ___ with resultant chest wall pain, and is presenting 
today with increased pain. Wife reports that over the last two 
weeks he has had intermittent confusion. He also says he has 
felt more unsteady over the last several weeks, and has been 
more confused as well. Has also had increased headaches over 
this same time interval as well, predominantly bilateral and 
frontal. Denies head/neck trauma with the falls. Had a one time 
episode of small volume hemoptysis yesterday, but nothing since. 
Some shoulder/chest pain on inspiration, none at rest, and no 
dyspnea; he attributes this chest pain to his falls. Blind on 
his left visual field from metastatic cancer. H/o A-Fib on 
metoprolol.

In the ED, VS: 98.3, 78, 99/55, 20, 100% RA on admission
Triggered on arrival for SBP 70-80's. Improved to 130's during 
ED course.
Notable labs: Initial sodium 111, improved to 116 over ED 
course. Pancytopenic.
Imaging:
CT head - WNL, no acute bleed, minor post-op changes from recent 
craniotomy
CTA chest - new bronchopneumonia and new lung nodules

He was given 250cc NS, 3 salt tabs that the pt brought with him 
from home, and was started on Vancomycin and Cefepime.

On arrival to the FICU, he feels "better." His current 
complaints are headache, which is frontal and has been for about 
1 week, as well as cough for the past week with green sputum. 
Denies fever/chills. He also endorses hallucinations.
 
Past Medical History:
- ___: Hemoptysis while on anti-coagulation for AFib, for
which he was referred to a pulmonologist. CT chest showed ground
glass opacities in the right upper lobe and a pleural-based
density in the lingula, as well as a 2-3 mm right upper lobe
nodule. 
- ___: Bronchoscopy negative for malignancy. 
- ___: Chest CT shows 6 mm right upper lobe nodule and
near-resolution of previous ground glass opacities. 
- ___: Repeat chest CT shows right upper lobe nodule
increased to 8 mm in size.
- ___: PET-CT shows FDG uptake in a 9 mm right upper lobe
nodule, concerning for malignancy. 
- ___: VATS with RUL wedge resection, followed by right 
upper
lobectomy by Dr. ___. Pathology showed 1.4 cm,
undifferentiated, small cell lung cancer with negative margins.
Lymph nodes positive at stations 10R, 11R, and 12R, and negative
at 2R, 4R, and 7. pT1aN1Mx, limited stage. 
- ___: MRI brain with no evidence of metastatic disease.  
- ___: Initial medical oncology visit
- ___: CT chest with mediastinal lymph node enlargement
(could be post-operative enlargement, but remains suspicious). 
- ___: C1D1 cisplatin/etoposide 
- ___: C2D1 cisplatin/etoposide and start of XRT to right
hilum and mediastinum. 
- ___: C3D1 cisplatin/etoposide. 
- ___: MRI brain normal. 
- ___: C4D1 cisplatin/etoposide.
- ___: Completes radiotherapy.
- ___: Admitted to ___ with
orthostasis, ___, and neutropenia without fever. 
- ___: Orthostatic with ___, given IVF and metoprolol dosage
decreased. 
- ___: Continued orthostasis and ___, given 
further
IVF. 
- ___: PET scan shows mild uptake in multiple mediastinal 
and
hilar lymph nodes, which have decreased in size. 
- ___: Undergoes prophylactic cranial irradiation. 
- ___: PET scan shows FDG-avid consolidative opacities in
the right lower lobe and paramediastinal aspect of the right
middle lobe (likely post-radiation pneumonitis and/or 
infection),
less extensive opacities in the anterointerior aspect of the
right middle lobe with low level FDG-avidity (likely
post-radiation), and no significant change in FDG-avid right
hilar lymphadenopathy (possibly reactive).
- ___: Bronchoscopy (performed because of hemoptysis while 
INR
was 4.0) shows no airway lesions. Slight bleeding was identified
at the takeoff of the left mainstem bronchus just proximal to 
the
main carina. Electrocautery was performed at the site and the
bleeding resolved. 
- ___: MRI brain shows no evidence of metastatic disease. 
- ___: CT chest shows no evidence of local recurrence, with
smaller mediastinal lymph nodes since ___ and minimal 
interval
increase of the right pleural effusion. 
- ___: CT torso shows new soft tissue right paratracheal
station or non-opacified azygous vein, stable right lung
radiation fibrosis, stable small right pleural effusion, mild
cardiomegaly  with predominantly biatrial enlargement, and no
evidence of metastatic disease within the abdomen or pelvis. 
- ___: Surveillance CT torso shows that the 
previously-noted
soft tissue along the right lower paratracheal station was due 
to
a non-opacified portion of the azygos vein, with decrease in 
size
of a small right pleural effusion. A new 3 mm left upper lobe
pulmonary nodule was noted. Asymmetric soft tissue involving the
lateral right wall of the rectum with increased vascularity was
noted, for which direct visualization was recommended. 
- ___: Surveillance CT chest reveals evidence of disease
progression, with new lytic osseous lesions of the right 
anterior
fourth rib with associated pleural and intramuscular invasion,
multiple new hypodensities in the liver consistent with multiple
liver metastases, and new 6 mm pulmonary nodules in the left
lower lobe. 
- ___: Bone scan shows an area of increased uptake in the
right fourth rib, as well as a second area of increased uptake 
in
the right fifth rib and L4 vertebral body. MRI head demonstrates
a new 8 mm ring-enhancing right parietal/occipital lobe lesion,
highly concerning for metastatic small cell lung cancer. 
- ___: Liver biopsy demonstrates metastatic undifferentiated
small cell carcinoma, morphologically similar to the previous
lung tumor resection. 
- ___: Admitted to ___ with left arm pain and weakness, as
well as severe hyponatremia (119 initially at ___. Evaluation of hyponatremia reveals SiADH, likely
secondary to recurrent small cell lung cancer, for which free
water restriction was instituted. 
- ___: C1D1 carboplatin (AUC 5)/etoposide (100 mg/m2 on days
___ with pegfilgrastim. 
- ___: MRI of the cervical spine shows lesions at C6 and T1,
likely reflecting metastatic disease, with no evidence of cord
compression.
- ___: Discharged to home with Na 123. 
- ___: Na 135 at follow-up visit. 
- ___: Na 139; administered 1L IV fluids because of
hypotension and tachycardia, with subsequent normalization of BP
and HR. 
- ___: C2D1 carboplatin (AUC 5)/etoposide (80 mg/m2 on days
___ with pegfilgrastim. Etoposide dose-reduced because of
thrombocytopenia with C1. 
- ___: MRI brain shows decrease in size of right
parieto-occipital mass. 
- ___: CT torso shows decrease in chest soft tissue and 
liver
metastatic lesions. 
- ___: C3D1 carboplatin (AUC 5)/etoposide (80 mg/m2 on days
___ with pegfilgrastim and zoledronic acid. Etoposide
dose-reduced because of thrombocytopenia with C1.
- ___: Diagnosed with pulmonary embolism in the setting of
new dyspnea on exertion. Treated with heparin gtt, transitioned
to enoxaparin. 
- ___: Discharged to home on enoxaparin 80 mg SC bid. 
- ___: C1D1 cisplatin 75 mg/m2/etoposide 80 mg/m2, with
pegfilgrastim. 
- ___: MRI brain parieto-occipital lobe mass decreased in
size to 1x1mm
- ___: C2D1 cisplatin 75 mg/m2/etoposide 80 mg/m2, with
pegfilgrastim.
- ___: C6D1 carboplatin/etoposide, with neulesta. Changed
back to carboplatin given subjective hearing loss. Dose 
reduction
of carboplatin to an AUC of 4. 
- ___: CT Torso with decreased size of liver lesions,
decrease in number of lytic lesions, no new thoracic lesions
- ___: C7D1 ___ (AUC 4)/etoposide
 
Social History:
___
Family History:
- Mother: alive, may have dementia, reports her 'becoming nasty'
and confused
- Father: died at ___ of colon cancer
- Malignancies: colon cancer in uncle
 
Physical ___:
ADMISSION
=================
Vitals: T: 97.5, BP: 134/83, P: 82, R: 16, O2: 100% RA  
GENERAL: Alert, oriented x3, NAD, appears older than stated age
HEENT: PERRLA, left homonymous hemianopnia, sclera anicteric
NECK:  No adenopathy or JVD
LUNGS: Scattered rhonchi ___, normal resp effort
CV: Irreg irreg, no m/r/g
ABD:  Nontender, nondistended, ecchymoses evident 
periumbilically at sites of lovenox injections
EXT: Warm, perfused, no edema

DISCHARGE
=================
VITALS T 36.6 BP 134/87 HR 92 RR 21 99% RA
Gen: Caucasian male in NAD
HEENT: EOMI grossly intact, alopecia, anicteric sclera, MMM
Cor: irregular rhythm, no MRG
Pulm: non-labored, CTAB
Abd: soft NT ND
Ext: wwp, Rt foot brace
Neuro: Alert, speaking in full sentences

 

 
Pertinent Results:
ADMISSION LABS
==========================
___ 12:01PM BLOOD WBC-3.9* RBC-3.06* Hgb-10.5* Hct-28.7* 
MCV-94# MCH-34.3* MCHC-36.6 RDW-13.2 RDWSD-44.8 Plt ___
___ 12:01PM BLOOD Neuts-68.7 Lymphs-18.2* Monos-11.5 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-2.69 AbsLymp-0.71* 
AbsMono-0.45 AbsEos-0.02* AbsBaso-0.01
___ 12:01PM BLOOD ___ PTT-36.8* ___
___ 12:01PM BLOOD Plt ___
___ 12:01PM BLOOD Glucose-135* UreaN-18 Creat-0.6 Na-111* 
K-6.7* Cl-84* HCO3-25 AnGap-9
___ 06:36PM BLOOD Glucose-96 UreaN-14 Creat-0.5 Na-117* 
K-4.0 Cl-85* HCO3-22 AnGap-14
___ 12:01PM BLOOD ALT-34 AST-104* AlkPhos-47 TotBili-0.7
___ 06:36PM BLOOD Calcium-8.5 Phos-1.0*# Mg-1.5* 
UricAcd-2.7*
___ 06:36PM BLOOD Osmolal-240*
___ 06:36PM BLOOD TSH-1.0
___ 12:25PM URINE Color-Yellow Appear-Clear Sp ___
___ 12:25PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-100 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 12:25PM URINE RBC-15* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 12:25PM URINE Mucous-RARE
___ 01:29AM URINE Hours-RANDOM Na-109 K-31 Cl-130
___ 01:29AM URINE Osmolal-656

PERTINENT LABS
==========================
___ 03:39AM BLOOD ALT-29 AST-25 AlkPhos-59 TotBili-0.9
___ 06:36PM BLOOD Calcium-8.5 Phos-1.0*# Mg-1.5* 
UricAcd-2.7*
___ 01:45PM BLOOD Na-113* K-6.7*
___ 02:32PM BLOOD Na-116* K-4.0
___ 10:06PM BLOOD Na-116*
___ 03:02AM BLOOD Na-117*
___ 04:44AM BLOOD Na-117*
___ 06:02AM BLOOD Na-123*
___ 08:59AM BLOOD Na-118*
___ 10:26AM BLOOD Na-118*
___ 12:11PM BLOOD Na-120*
___ 02:03PM BLOOD Na-118*
___ 04:06PM BLOOD Na-121*
___ 06:12PM BLOOD Na-121*
___ 08:51PM BLOOD Na-122*
___ 11:17PM BLOOD Na-126*
___ 02:13AM BLOOD Na-123*
___ 06:09AM BLOOD Na-126*
___ 08:16AM BLOOD Na-125*
___ 12:40PM BLOOD Na-123*
___ 05:45PM BLOOD Na-125*
___ 08:33PM BLOOD Na-126*
___ 02:37AM BLOOD Na-126*
___ 09:41AM BLOOD Na-128*
___ 01:30PM BLOOD Na-127*
___ 10:13PM BLOOD Na-130*

MICROBIOLOGY
=======================
___ 12:25 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml.

___ 12:05 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 6:36 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

IMAGING/STUDIES
======================== 
ECG Study Date of ___  10:27:44 AM 
 
Atrial fibrillation with a controlled ventricular response. 
Ventricular ectopy versus aberrant conduction. Incomplete right 
bundle-branch block. Possible right ventricular hypertrophy. 
Compared to the previous tracing of ___ there is no 
significant change.  

ECG Study Date of ___  12:01:22 ___ 
 
Atrial fibrillation. Incomplete right bundle-branch block. Low 
voltage in the precordial leads. Compared to the previous 
tracing of ___ ventricular ectopy versus aberrant 
conduction is no longer present. 
 
CT HEAD W/O CONTRAST ___
 
1. No acute hemorrhage or new mass effect. 
2. Multiple subcentimeter enhancing lesion seen on the ___ MRI are not appreciated on the present 
noncontrast CT. 

CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___
1.  No pulmonary embolus or acute aortic abnormality. 
2.  Left lower lobe mucous impaction with associated 
atelectasis, correlation for superimposed infection is 
recommended. 
3.  New 0.7 cm right middle lobe pulmonary nodule with increased 
density of known 0.8 cm right lower lobe pulmonary nodule. 
4.  Diffuse osseous metastatic disease, unchanged since prior 
exam.  No 
pathologic fracture. 
5.  Moderate nonhemorrhagic pericardial effusion, slightly 
increased since 
prior examination. 

DISCHARGE LABS
=======================
___ 01:43AM BLOOD WBC-2.8* RBC-2.51* Hgb-8.9* Hct-24.9* 
MCV-99* MCH-35.5* MCHC-35.7 RDW-12.9 RDWSD-46.5* Plt Ct-53*
___ 01:43AM BLOOD Glucose-97 UreaN-6 Creat-0.5 Na-128* 
K-4.1 Cl-96 HCO3-23 AnGap-13
___ 01:43AM BLOOD Calcium-8.0* Phos-1.8* Mg-1.___ y/o M with a h/o metastatic small cell lung ___, h/o PE on 
lovenox, SIADH presenting with hyponatremia, confusion and 
hemoptysis/cough concerning for pneumonia. 

# Hyponatremia ___ SIADH
The patient presented with an Na of 111, an acute drop from 
recent baseline of 120s-130s. This was thought likely consistent 
with SIADH due to his small cell lung cancer vs. pneumonia as 
below given the elevated urine osm to 656 and urine sodium of 
109. His TSH was found to be normal.  He was admitted to the ICU 
for management. His sodium was slowly corrected with fluid 
restriction, hypertonic saline gtt, and salt tabs with good 
effect. His hypertonic saline was slowly tapered and he was 
transitioned to salt tabs 2g TID on discharge. His confusion 
improved but he still had nighttime delirium as further 
described below despite improvement in his sodium. His sodium 
was 128 on discharge. 

#Small Cell Lung Cancer/ Goals of Care discussion
The patient has advanced small cell lung cancer with mets to the 
brain, liver and bone. He has undergone RUL lobectomy, 7 cycles 
of ___, as well as 15x2 Gy of whole brain radiation, 
resection and SRS of the left occipital lobe lesion, and 
cyberknife therapy. In the ED a CTA was notable for anew 
pulmonary nodule as well as interval increase in the size of 
another nodule. He was seen by his oncology team while in the 
ICU. After a goals of care discussion with his oncology and ICU 
team, the patient and his family elected to be discharged home 
from the ICU with home hospice.   

# Altered mental status, delirium/hallucinations, recent falls
Patient admitted with two recent falls in the week preceeding 
the admission in the setting of feeling unsteady on his feet as 
well as increased confusion and headaches. In the ED he had a CT 
head which was negative for any new abdnormality. His altered 
mental status was thought predominately due to hyponatremia 
superimposed on brain mets/XRT. There was possibly an additional 
component from his pneumonia. However he continued to have 
delirium as well as hallucinations worse at night throughout the 
admission despite correction of his hyponatremia and treatment 
of his PNA. He was treated with Haldol, Seroquel and trazodone 
for his delirium and hallucination while in the ICU. He will 
continue on these medications when he returns home with hospice. 
He had some anterior chest wall pain that was thought to be 
likely due to musculoskeletal pain from the fall vs. pain from 
his pneumonia that resolved. There was no indication for home ___ 
on discharge.

# HCAP/Hemoptysis
The patient presented with one episode of hemoptysis the day 
prior to admission, as well as a cough that he had had for a 
week. The hemoptysis resolved. He underwent a CTA chest which 
was negative for PE but notable for a left lower lobe mucous 
impaction with associated atelectasis concerning for pneumonia. 
The hemoptysis was thought to be due to his infection vs. 
malignancy. There were no signs of PE on CTA. He was started on 
Vanc/Cefepime in the ED and transitioned to levofloxacin to 
complete an 8 day course. He remained afebrile and 
hemodynamically stable. He was continued on lovenox given lack 
of continued bleeding or evidence of hemodynamically significant 
bleed.

# Atrial fibrillation
He was continued on metoprolol tartrate BID and lovenox. He 
continued these medications on discharge.

# H/o PE
Patient continued lovenox as above.

TRANSITIONAL ISSUES
=====================
NEW MEDS
- Salt tabs 2 mg TID
- Seroquel ___ mg QHS bedtime
- Trazodone 50 mg PRN
- Haldol ___ mg Q4HR PRN
- Morphine comfort script for pain regimen and benzodiazepine 
needs
- Anti nausea medications PRN
- 3 more days of levofloxacin 750 mg daily for 8 day course 
(___)

-Pt discharged home with hospice
-DNR/DNI
-HCP: Wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 50 mg PO BID 
2. Enoxaparin Sodium 80 mg SC BID 
3. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
4. Atorvastatin 20 mg PO QPM 
5. Sodium Chloride 1 gm PO BID 

 
Discharge Medications:
1. Enoxaparin Sodium 80 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
2. Metoprolol Tartrate 50 mg PO BID 
3. Sodium Chloride 2 gm PO TID 
4. Acetaminophen 650 mg PO Q6H:PRN pain, fever 
5. Docusate Sodium 100 mg PO BID 
6. Levofloxacin 750 mg PO DAILY 
7. QUEtiapine Fumarate ___ mg PO QHS:PRN agitation 
8. Senna 8.6 mg PO BID:PRN constipation 
9. TraZODone 50 mg PO QHS:PRN pain 
10. Haloperidol ___ mg PO Q4H:PRN agitation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
==================
Hyponatremia 
Health Care Associated Pneumonia
Encephalopathy
Small Cell Lung Cancer
Atrial Fibrillation
Hemoptysis
History of PE

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted to the hospital for low sodium levels due to your 
lung cancer. You were given high salt fluids as well as salt 
tabs to help control your salt level. You will continue to take 
salt tabs after you leave the hospital to help keep your salt 
level up.

You also had evidence of an infection in your lungs. You 
received antibiotics while you were here which you will need to 
continue when you leave the hospital for three more days.

After discussions with your oncologist and ICU team you decided 
that you wanted to leave the hospital to be able to spend your 
time at home with your family. You will have visiting nurses 
come to your home to help you and your family with all of your 
needs.

We Wish You the Best!
-Your ___ Care Team
 
Followup Instructions:
___